Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ACE Inhibitors
 
Attending: ___.
 
Chief Complaint:
UE numbness/paresthesias 
 
Major Surgical or Invasive Procedure:
___ cardiac catheterization 

 
History of Present Illness:
___ with a PMH of HTN, HLD, STEMI s/p PCI (RCA) two weeks ago at
___ who presents with bilateral upper extremity
numbness/paresthesia found to have abnormal stress test. 

Two weeks prior to admission patient presented to ___ with symptoms of indigestion which he described as
epigastric discomfort radiating to his back. He underwent cath
which showed 90% RCA lesion and received a bare metal stent. He
reports 50% disease elsewhere that was not intervened upon. Of
note, a few months prior to this MI he experienced several 
months
of non-exertional, intermittent, bilateral hand tingling. Pt was
started on atorvastatin, triamterene-HCTZ prior to discharge. He
experienced throat swelling/angioedema with lisinopril. 

Since his hospitalization pt reports recurrence intermittent
extremity numbness/paresthesias. This sensation is intermittent
and improved with walking. Patient denies chest pain with or
without exercise, SOB, abdominal pain, nausea, vomiting,
diaphoresis. He took nitro prior to arrival because he was
concerned he was having another MI. Upon arrival to the ED pt
reports symptoms are improved. 
 
In the ED initial vitals were: ___ 62 138/78 16 98% RA 
 
EKG: SR, HR 50, normal axis, normal intervals, STD II, III, aVF,
borderline STD V5-V6.  
 
Labs/studies notable for:  
1) BMP: Na 136, K 4.6, Cl 96, HCO3 26, BUN 30, Cr 1.4
2) CBC: WBC 8.8, Hb 13.5, plt 248 
3) Troponin: <0.01
4) INR 1.2 

Patient was given:  
___ 07:44 PO/NG Aspirin 81 mg  
___ 07:44 PO Prasugrel 10 mg 
___ 07:44 PO Triamterene-HCTZ (37.5/25) 1 CAP 

Imaging was notable for: 
1) Stress test: 1. Reversible, small, moderate severity 
perfusion
defect involving the LAD (diagonal) territory. 2. Increased left
ventricular cavity size with normal systolic function.  
2) CXR: No acute issues
 
Vitals on transfer: 73 130/87 17 98% RA 

On the floor patient reports ongoing hand tingling, described as
uncomfortable. It is worse when he touches things, no hot/cold
sensitivity. He denies hand trauma, swelling. He denies CP/palp,
SOB/cough, abd pain/N/V, dysuria, constipation.  
 
REVIEW OF SYSTEMS:  
Positive per HPI, otherwise 10pt ROS obtained and negative  

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- HLD
- HTN 

2. CARDIAC HISTORY  
- CAD: 90% RCA, s/p BMS to RCA (___)
- Rhythm: SR

3. OTHER PAST MEDICAL HISTORY 
- ED 
 
HOME MEDICATIONS:  
-Aspirin 81 mg PO DAILY 
-Atorvastatin 40 mg PO QPM 
-Cialis (tadalafil) 20 mg oral PRN  
-Metoprolol Succinate XL 25 mg PO DAILY 
-Nitroglycerin SL 0.3 mg SL Q5MIN:PRN SOB 
-Prasugrel 10 mg PO DAILY 
-Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
 
Social History:
___
Family History:
Brother- MI (___ iso drug use)
Mother- HTN, HLD
mGM- possible MI (d. ___)
Father- d. ___

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===============================
VS: 98.6 PO ___ 18 91 
GENERAL: NAD, resting in bed. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.  

NECK: Supple. No JVP elevation 
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. No thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema. Joints without swelling, warmth, redness.   
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
DISCHARGE PHYSICAL EXAMINATION:  
===============================
VS: 98.0PO, 149 / 85, 74, 16, 95 RA  
GENERAL: NAD, resting in bed. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.  

NECK: Supple. No JVP elevation 
CARDIAC: regular, borderline bradycardic. Normal S1, S2. No
murmurs, rubs, or gallops. No thrills or lifts.  
LUNGS: Respiration is unlabored with no accessory muscle use. No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema. R groin site without hematoma, bruit, thrill, 
distal pulses intact. R radial site without hematoma (prior 
swelling with c/f hematoma has resolved), bruit, thrill, hand 
well perfused.    
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 01:25AM BLOOD WBC-8.8 RBC-5.06 Hgb-13.5* Hct-40.6 
MCV-80* MCH-26.7 MCHC-33.3 RDW-13.6 RDWSD-39.5 Plt ___
___:25AM BLOOD Neuts-53.4 ___ Monos-11.2 Eos-4.1 
Baso-0.8 Im ___ AbsNeut-4.72 AbsLymp-2.65 AbsMono-0.99* 
AbsEos-0.36 AbsBaso-0.07
___ 03:44PM BLOOD ___ PTT-35.0 ___
___ 01:25AM BLOOD Glucose-108* UreaN-30* Creat-1.4* Na-136 
K-4.6 Cl-96 HCO3-26 AnGap-14
___ 01:25AM BLOOD Calcium-9.2 Phos-4.4 Mg-2.6
___ 01:25AM BLOOD cTropnT-0.01
___ 06:10AM BLOOD cTropnT-<0.01
___ 09:15PM BLOOD CK-MB-2 cTropnT-<0.01

STUDIES: 
========
CHEST (PA & LAT) Study Date of ___  
No acute cardiopulmonary process.

CARDIAC PERFUSION Study Date of ___  
FINDINGS:   
The image quality is adequate but limited due to soft tissue 
attenuation and motion.     
Left ventricular cavity size is increased.     
Resting and stress perfusion images reveal a reversible, 
moderate reduction in photon counts involving the mid and distal 
anterior wall.   
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 49% with an 
EDV of 157 ml. 
  
IMPRESSION: 
1. Reversible, small, moderate severity perfusion defect 
involving the LAD 
(diagonal) territory. 
2. Increased left ventricular cavity size with normal systolic 
function.   
  
Stress Study Date of ___   
INTERPRETATION: This ___ year old Afro-Am man s/p MI/PCI to the 
RCA 
___ was referred to the lab from the ER following 
negative 
serial cardiac markers for evaluation of arm discomfort. The 
patient 
exercised for 8.3 minutes of ___ protocol and was stopped 
for target 
submax HR achieved and ST variance. The estimated peak MET 
capacity was 
9.5 which represents an average functional capacity for his age. 
At 
1.25 minutes of exercise, the patient developed an epigastric 
discomfort 
which was ___ at peak exercise. He also noted bilateral arm 
discomfort 
near peak exercise which he atributed to holding treadmill 
railing. The 
discomfort resolved within 1 minute of stopping exercise. At 
peak 
exercise, there was 2mm horizontal/downslopng ST segment 
depression in 
the inferolateral leads and 1 mm STE in aVR and aVL. The ST 
segment 
changes resolved with rest by minute 12 of recovery and are in 
the 
setting of the baseline prominent voltage. The rhythm was sinus 
with 
frequent isolated vpbs. Appropriate hemodynamic response to 
exercise 
and recovery. 
IMPRESSION: Ischemic EKG changes with probable mild anginal type 

symptoms. Nuclear report sent separately. 

Cardiac Catheterization ___ 
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is angiographically normal
* Left Anterior Descending
The LAD has mild ___ stenosis proximally
The ___ Diagonal is a small caliber branch with slow flow noted, 
origin not visualized
* Circumflex
The Circumflex is dominant
The stent in the ___ Marginal is widely patent
* Right Coronary Artery
No injected

Impressions:
1. Two vessel and branch vessel CAD in this left dominant 
coronary system. Mild LAD, widely patent
stent in the OM1. Slow flow noted in small diagonal branch
2. Deferred access to the R CFA for access, due to small sized 
right radial artery

Recommendations
1. Continue DAP with ASA and Prasugrel as before
2. Would defer attempt at revascularization for diagonal branch 
in light of lack of convincing symptoms
and the small caliber of the diagonal branch (origin not 
visualized)
3. Further recommendations as per in patient Cardiology service

DISCHARGE LABS: 
=================
___ 05:25AM BLOOD WBC-6.9 RBC-5.08 Hgb-13.5* Hct-41.9 
MCV-83 MCH-26.6 MCHC-32.2 RDW-13.4 RDWSD-40.5 Plt ___
___ 05:25AM BLOOD ___ PTT-33.6 ___
___ 05:25AM BLOOD Glucose-102* UreaN-24* Creat-1.5* Na-140 
K-4.5 Cl-99 HCO3-27 AnGap-14
___ 05:25AM BLOOD ALT-20 AST-17 AlkPhos-75 TotBili-0.4
___ 05:25AM BLOOD Calcium-9.5 Phos-4.3 Mg-2.4
___ 05:25AM BLOOD VitB12-681 Folate-8
___ 05:25AM BLOOD %HbA1c-5.7 eAG-117
___ 05:25AM BLOOD TSH-0.55
___ 05:25AM BLOOD 25VitD-22*

 
Brief Hospital Course:
___ with a history of HTN, HLD, recent STEMI s/p BMS to RCA on 
___ at ___, who presented with 
bilateral upper extremity numbness concerning for anginal 
equivalent, found to have possible ischemic changes on exercise 
stress test.

Underwent cardiac cath on ___ showing patent stents and a small 
amount of disease with slow flow in the small diagonal branch 
that did not require intervention. 

==============
ACTIVE ISSUES:
==============

# Upper extremity paresthesias:
Patient presented with intermittent bilateral upper extremity 
numbness extending from shoulder to hands, no clear trigger, 
occurring at rest and with exertion. This was concerning for 
anginal equivalent given his recent known cardiac history. Work 
up otherwise showed vitamin B12 WNL, folate WNL, TSH WNL, and 
vitamin D of 22. His paresthesias should continue to be 
addressed as an outpatient. 

# Abnormal Stress Test:
# CAD:
Patient had recently presented to ___ 
with epigastric pain, found to have an acute inferior posterior 
STEMI for which he received BMS x1 to RCA on ___. Per review 
of OSH records, TTE at that time showed EF 45-50% with 
mild-moderate concentric LVH and RWMA. Cardiac cath at that time 
showed "mid to dist cx lesion 50% stenosed, ___ ___ mrg to ___ 
mrg 50% stenosed, ___ LAD to mid LAD lesion 50% stenosed, ___ 
mrg lesion 90% stenosed... culprit tight cx om lesion with 
successful non DES to cx." 

He presented with bilateral upper extremity paresthesias 
concerning potentially for anginal equivalent given his cardiac 
history. Trops negative, and EKG at baseline. This admission, a 
stress test was performed. Exercise test showed "Ischemic EKG 
changes with probable mild anginal type symptoms." Nuclear test 
showed "Reversible, small, moderate severity perfusion defect 
involving the LAD (diagonal) territory." He received cardiac 
catheterization on ___, which showed: "Two vessel and branch 
vessel CAD in this left dominant coronary system. Mild LAD, 
widely patent stent in the OM1. Slow flow noted in small 
diagonal branch." No stents placed. Post cath check showed R 
groin access site and attempted R radial site without hematoma, 
thrill, bruit, with intact distal pulses. 

He was continued on home aspirin, prasugrel, metoprolol. Home 
triamterene-HCTZ was held day of cath, but planned to restart on 
discharge the morning of ___. Home atorvastatin was 
increased to 80. Plan was for transition to Plavix from 
prasugrel in about 1 month after initial stent placement at 
___. 

# ___:
Cr was 1.4 on admission, from a reported baseline 1.1-1.2 no 
records available for review. Possible that this could represent 
CKD in the setting of long standing hypertension, or possible 
that this was prerenal ___ in the setting of poor PO. He 
received gentle hydration pre and post cath. 

===============
CHRONIC ISSUES:
===============

# HTN:
He was continued on home metoprolol, though note he had 
asymptomatic bradycardia with HR ___. Plan to restart home 
triamterene-HCTZ post cath on ___. 

# HLD:
Increased atorvastatin to 80 mg daily. 

====================
TRANSITIONAL ISSUES: 
====================

NEW MEDS: vitamin D 1000U daily 
CHANGED MEDS: Atorvastatin 80 daily increased from 40 mg daily
STOPPED MEDS: none 

- Discharge weight: 85.2 kg / 187.83 lb
- Discharge creatinine: 1.5

[] Consider ___ as outpatient; note that patient had 
concern for angioedema with ACEi in the past. 
[] Home triamterene-HCTZ held ___ cath, but plan to restart the 
morning of ___. 
[] Recheck BMP for renal function on ___ primary care follow 
up

# CODE STATUS: Full presumed 
# CONTACT: ___ (significant other)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Cialis (tadalafil) 20 mg oral PRN 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN SOB 
6. Prasugrel 10 mg PO DAILY 
7. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 

 
Discharge Medications:
1.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 0.5 (One half) 
tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Cialis (tadalafil) 20 mg oral PRN  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN SOB  
7.  Prasugrel 10 mg PO DAILY  
8.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
coronary artery disease, upper extremity paresthesias, ___  

SECONDARY DIAGNOSIS: 
hypertension, hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure to care for you at ___ 
___. 

WHY WERE YOU ADMITTED? 
- You had hand and arm tingling. You had a stress test for your 
heart that was abnormal. 

WHAT HAPPENED IN THE HOSPITAL? 
- You had a procedure called a cardiac catheterization to take a 
better look at the blood vessels supplying your heart. This 
showed "Two vessel and branch vessel CAD in this left dominant 
coronary system. Mild LAD, widely patent stent in the OM1. Slow 
flow noted in small diagonal branch," which means there was a 
small amount of disease in one of the small arteries but no new 
stent was needed to open the artery.

WHAT SHOULD YOU DO ON DISCHARGE? 
- Please take your medications as prescribed, as detailed in the 
following pages. Please remember it is very important in 
particular to take your aspirin and prasugrel every day so that 
your heart stents do not close up. 
- Please go to your follow up appointments as scheduled. 

We wish you the best, 
Your ___ team 
 
Followup Instructions:
___